US04727066
15 g (0.04 moles) of 2-(4-acetylaminophenoxy)-ethyl 2-(3-nitrobenzilidene)acetylacetate and 4.19 g (0.04 moles) of methyl 3-aminocrotonate are heated for 4 hours under reflux in 40 ml of ethanol. The solution is cooled to 7° C. to obtain 2-(4-acetylaminophenoxy)ethyl 2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate as yellow crystals melting--after recrystallisation in isopropanol--at 202°-204° C. The yield was 68% of the theoretical yield.

reactant | 2-(4-acetylaminophenoxy)-ethyl 2-(3-nitrobenzilidene)acetylacetate | 0.04 moles, 15 g | [N+](=O)([O-])C=1C=C(C=CC(=O)CC(=O)OCCOC2=CC=C(C=C2)NC(C)=O)C=CC1 | C21H20N2O7
reactant | methyl 3-aminocrotonate | 0.04 moles, 4.19 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(4-acetylaminophenoxy)ethyl 2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate | yield was 68% | CC=1NC(=C(C(C1C(=O)OCCOC1=CC=C(C=C1)NC(C)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C26H27N3O8
